US06677368B2
2-[4-(2,3-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid (2-Hydroxy-3-pyrrolidin-1-yl-propyl)-methyl-amide
2-[4-(2,3-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (115 mg, 0.3 mmol) was coupled with 1-methylamino-3-pyrrolidin-1-yl-propan-2-ol (3 eq.), EDC (2 eq.), HOBt (1 eq.) in DMF (1.5 mL) to give 108 mg of the titled compound as a yellow solid. MS 521.2 [M++1].

reactant | 2-[4-(2,3-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.3 mmol, 115 mg | FC1=C(C=CC=C1F)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H14F2N2O3
reactant | 1-methylamino-3-pyrrolidin-1-yl-propan-2-ol | 3 eq. | CNCC(CN1CCCC1)O | C8H18N2O
reactant | EDC | 2 eq.
reactant | HOBt | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2,3-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid (2-Hydroxy-3-pyrrolidin-1-yl-propyl)-methyl-amide | 108 mg | OC(CN(C(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=C(C(=CC=C1)F)F)=O)C)CN1CCCC1 | C29H30F2N4O3
